US05256824
To a solution of (-)-N-t-butyl-4,4-diphenyl-2-cyclopentenylamine (8.82 g) in diethyl ether (50 ml) was added water (15 ml) and conc. hydrochloric acid (5 ml) at 0°-10° C. and stirred for 30 minutes. The resulting precipitate was collected by filtration and washed with diethyl ether to give (-)-N-t-butyl-4,4-diphenyl-2-cyclopentenylamine hydrochloride (9.70 g).

reactant | (-)-N-t-butyl-4,4-diphenyl-2-cyclopentenylamine | 8.82 g | C(C)(C)(C)NC1C=CC(C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H25N
reactant | water | 15 ml | O | H2O
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | (-)-N-t-butyl-4,4-diphenyl-2-cyclopentenylamine hydrochloride | 9.70 g | Cl.C(C)(C)(C)NC1C=CC(C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H25N.ClH/c1-20(2,3)22-19-14-15-21(16-19,17-10-6-4-7-11-17)18-12-8-5-9-13-18;/h4-15,19,22H,16H2,1-3H3;1H
